US03976633
To a solution of 5.4 g. (0.014 mol.) of 1,3-bis(2cyano-5-trifluoromethylphenyl)triazene in 500 ml. of ether is added 15 ml. of propyl isocyanate. The reaction mixture is stirred at 25° for 24 hours after which time the precipitated product is collected by filtration and washed with ether to give 3-(N-propylcarbamoyl)-1,3-bis(2-cyano-5-trifluoromethylphenyl)triazene, m.p. 138°-140° (dec.).

reactant | 1,3-bis(2cyano-5-trifluoromethylphenyl)triazene | 0.014 mol | C(#N)C1=C(C=C(C=C1)C(F)(F)F)N=NNC1=C(C=CC(=C1)C(F)(F)F)C#N | C16H7F6N5
reactant | propyl isocyanate | C(CC)N=C=O | C4H7NO
solvent | ether | CCOCC | C4H10O
product | 3-(N-propylcarbamoyl)-1,3-bis(2-cyano-5-trifluoromethylphenyl)triazene | C(CC)NC(=O)N(N=NC1=C(C=CC(=C1)C(F)(F)F)C#N)C1=C(C=CC(=C1)C(F)(F)F)C#N | C20H14F6N6O
